* SKY130 transistor frontend pre-layout experiment; inspect included snapshot for passive types.
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /repo/v2/analog/frontend/repair_20260910/qualification_cas65_deg1000_cap1/loops_tt_1.8_27_g16/measurement_dm.spice
.temp 27
.options reltol=1e-6 abstol=1e-14 vntol=1e-9 chgtol=1e-18 itl1=200 itl2=200
VDD VDD 0 1.8
VCM VCM 0 0.9

VIP SP 0 0.9
VIN SN 0 0.9
RSP SP IP 350
RSN SN IN 350
VSEL0 SEL0 0 0
VSEL1 SEL1 0 1.8
XPGA IP IN OP ON VDD 0 VCM SEL0 SEL1 sky130_v2_switchable_pga
XRIP OP FP 0 frontend_r R=2800.0
XRIN ON FN 0 frontend_r R=2800.0
XCFP FP 0 frontend_c4p
XCFN FN 0 frontend_c4p
* Explicit static test load, no sampling-noise claim.
CLP FP 0 81.28512p
CLN FN 0 81.28512p
.control
set noaskquit
set wr_singlescale
set wr_vecnames
op
wrdata dm_op.dat all
ac dec 100 1 1g
let loop=-(v(xpga.fbp)-v(xpga.fbn))/(v(xpga.ifbp)-v(xpga.ifbn))
let lr=real(loop)
let li=imag(loop)
wrdata dm_ac.dat lr li
quit
.endc
.end
